Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Left knee infection
 
Major Surgical or Invasive Procedure:
___:  I&D left knee with removal of hardware
 
History of Present Illness:
Mr. ___ is a ___ year old man who had a left ACL and 
meniscus repair on ___.  He presents to the ___ with 
concerns for a left knee infection.
 
Past Medical History:
Left ACL reapir ___
 
Social History:
___
Family History:
n/a
 
Physical Exam:
Upon admission

Alert and oriented
Cardiac:  Regular Rate Rhythm
Chest:  Lungs clear bilateraly
Abdomen:  Soft non-tender non-distended
Extremities:  LLE +pulses/sensation, No pain with ROM, anterior 
tibia incision with +erythemia
 
Pertinent Results:
___ 06:42AM BLOOD WBC-7.6 RBC-4.47* Hgb-12.8* Hct-39.1* 
MCV-88 MCH-28.7 MCHC-32.8 RDW-12.3 Plt ___
___ 06:42AM BLOOD Neuts-62.2 ___ Monos-6.0 Eos-4.9* 
Baso-0.7
___ 06:42AM BLOOD ___ PTT-32.1 ___
___ 06:42AM BLOOD ESR-52*
___ 06:42AM BLOOD ALT-53* AST-27 LD(___)-139 AlkPhos-67 
Amylase-125* TotBili-0.4
___ 06:42AM BLOOD Glucose-85 UreaN-14 Creat-1.0 Na-140 
K-4.5 Cl-103 HCO3-30 AnGap-12
___ 06:42AM BLOOD ALT-53* AST-27 LD(LDH)-139 AlkPhos-67 
Amylase-125* TotBili-0.4
___ 06:42AM BLOOD CRP-91.9*
___ 09:10PM BLOOD Vanco-7.7*
___ 08:30AM BLOOD RedHold-HOLD
 
Brief Hospital Course:
Mr. ___ presented to the ___ on ___ with 
concern for infection of his left knee.  He was evaluated by the 
orthopaedic surgery service and admitted.  On ___ he was 
taken to the operating room and underwent a left tibia wound I&D 
with removal of hardware.  He tolerated the procedure well, was 
extubated, transferred to the recovery room, and then to the 
floor.  On the floor he was seen by infectious disease.  His 
cultures grew mssa he was placed on nafcillan by id for  6 
weeks. He had a picc line placed by ir. The rest of his hospital 
stay was uneventful with his lab data and vital signs within 
normal limits and his pain controlled.  He is being discharged 
today in stable condition.  He will have home iv therapy for 
antibiotics.
 
Medications on Admission:
denies
 
Discharge Medications:
1. Outpatient Lab Work
Please draw weekly CBC with diff, Chem 7, LFT's, ESR, CRP
Please fax results to Infectious Disease at ___
2. PICC Care
Normal Saline Flush ___ daily/prn/SASH
Heparin Flush 10units/ml daily/prn/SASH
3. Nafcillin 2 gram Recon Soln Sig: One (1)  Intravenous every 
four (4) hours for 6 weeks.  
4. Oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed for Pain.
Disp:*90 Tablet(s)* Refills:*0*
5. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left knee infection
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Continue to be weight bearing as tolerated on your left leg with 
your brace locked in extension

You may continue range of motion of your knee when not weight 
bearing

Please take all medication as prescribed

If you have any increased redness, draiange, or swelling, of if 
you have a temperature greater than 101.5, please call the 
office or come to the emergency department.
Physical Therapy:
Activity:  Activity as tolerated
 Left lower extremity:  Full weight bearing
 ___ locked in extension when weightbearing
 AAROM when not weight bearing

Treatment Frequency:
Dry dressing daily
 
Followup Instructions:
___